US04024175
1-Aminomethyl-1cyclohexane-acetic acid.
5.6 ml. Triethylamine in 16 ml. anhydrous acetone are added dropwise, with stirring and cooling to 0° C., to a solution of 7.28 g. monomethyl 1,1-cyclohexane-diacetate, whereafter a solution of 3.6 ml. ethyl chloroformate in 16 ml. anhydrous acetone is added thereto. The reaction mixture is further stirred for 30 minutes at 0° C. and and then a solution of 3.4 g. sodium azide in 12 ml. water added dropwise thereto. The reaction mixture is stirred for 1 hour at 0° C., then poured into ice water and extracted three times with 50 ml. amounts of ice-cold toluene. The combined extracts are dried over anhydrous sodium sulphate at 0° C. and subsequently introduced drop-wise into a flask pre-heated to 100° C. The mixture is then heated for a further hour under reflux and thereafter evaporated in a vacuum. The crude methyl 1-isocyanatomethyl-1-cyclohexane-acetate which remains behind is heated under reflux for 3 hours with 50 ml. 20% hydrochloric acid. After cooling the solution, it is extracted three times with 100 ml. amounts of chloroform to remove the 1-amino-methyl-1-cyclohexane-acetic acid lactam formed as a by-product product and the aqueous hydrochloric acid solution evaporated in a vacuum, whereby 1-aminomethyl-1-cyclohexane-acetic acid crystallises as the hydrochloride; m.p. 117°-118° C., after recrystallisation from acetone/methanol/ether. After recrystallization from methanol/ether the melting point of the product is 129°-133° C.

reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | monomethyl 1,1-cyclohexane-diacetate | C1(CCCCC1)(CC(=O)OC)CC(=O)[O-]
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 1-Aminomethyl-1cyclohexane-acetic acid | NCC1(CCCCC1)CC(=O)O | C9H17NO2
